* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.1.52 on 2022/08/07.
* Author: L. Schindler
* Version: 3.0
* Last modification date: 4 August 2022
* Last modification by: T. Hall
* Copyright (c) 2018-2022 Lieze Schindler, Tessa Hall, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
* For questions about the library, contact Tessa Hall, 19775539@sun.ac.za.
* The cell is not designed to be connected directly to passive transmission lines.
*$Ports  a b clk q
.subckt THmitll_OR2 a b clk q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=1.67
.param B3=1.48
.param B4=2.5
.param B5=1.67
.param B6=1.48
.param B7=2.27
.param B8=2.36
.param B9=1.76
.param B10=2.5
.param B11=1.44
.param B12=2.5
.param IB1=175u
.param IB2=175u
.param IB3=283u
.param IB4=158u
.param IB5=175u
.param IB6=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param L1=1.6049p
.param L2=4.4173p
.param L3=0.7163p
.param L4=1.6049p
.param L5=4.4173p
.param L6=0.7163p
.param L7=3.2947p
.param L8=8.7190p
.param L9=2.1422p
.param L10=3.7843p
.param L11=3.9628p
.param L12=1.6906p
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP8=LP
.param LP9=LP
.param LP10=LP
.param LP12=LP
.param RB1=B0Rs/B1   
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10 
.param RB11=B0Rs/B11 
.param RB12=B0Rs/B12 
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP 
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet 
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet
.param LRB12=(RB12/Rsheet)*Lsheet+LP
B1 1 2 jjmit  area=B1 
B2 4 5 jjmit  area=B2 
B3 4 6 jjmit  area=B3 
B4 8 9 jjmit  area=B4 
B5 11 12 jjmit  area=B5 
B6 11 13 jjmit  area=B6 
B7 15 16 jjmit  area=B7 
B8 16 17 jjmit  area=B8 
B9 19 20 jjmit  area=B9 
B10 21 22 jjmit  area=B10 
B11 24 19 jjmit  area=B11 
B12 25 26 jjmit  area=B12 
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 14 pwl(0 0 5p IB3)
IB4 0 18 pwl(0 0 5p IB4)
IB5 0 23 pwl(0 0 5p IB5)
IB6 0 27 pwl(0 0 5p IB6)
LB1 3 1 LB1 
LB2 10 8 LB2 
LB3 14 7 LB3 
LB4 18 16 LB4 
LB5 23 21 LB5 
LB6 27 25 LB6 
L1 a 1 1.592E-012 
L2 1 4 4.395E-012 
L3 6 7 7.134E-013 
L4 b 8 1.61E-012 
L5 8 11 4.378E-012 
L6 13 7 7.212E-013 
L7 7 15 3.29E-012 
L8 16 19 8.747E-012 
L9 clk 21 2.161E-012 
L10 21 24 3.766E-012 
L11 19 25 3.926E-012 
L12 25 q 1.675E-012 
LP1 2 0 4.683E-013 
LP2 5 0 4.125E-013 
LP4 9 0 3.472E-013 
LP5 12 0 4.43E-013 
LP8 17 0 4.666E-013 
LP9 20 0 4.384E-013 
LP10 22 0 3.63E-013 
LP12 26 0 4.421E-013 
RB1 1 101 RB1  
LRB1 101 0 LRB1 
RB2 4 104 RB2  
LRB2 104 0 LRB2 
RB3 4 106 RB3  
LRB3 106 6 LRB3 
RB4 8 108 RB4  
LRB4 108 0 LRB4 
RB5 11 111 RB5  
LRB5 111 0 LRB5 
RB6 11 113 RB6  
LRB6 113 13 LRB6 
RB7 15 115 RB7  
LRB7 115 16 LRB7 
RB8 16 116 RB8  
LRB8 116 0 LRB8 
RB9 19 119 RB9  
LRB9 119 0 LRB9 
RB10 21 121 RB10  
LRB10 121 0 LRB10 
RB11 24 124 RB11  
LRB11 124 19 LRB11 
RB12 25 125 RB12  
LRB12 125 0 LRB12 
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=2.25
.param b2=2.25
.param b3=ic
.param ib1=275u
.param ib2=b3*ic0*biascoef
.param lb1=lb
.param lb2=lb
.param l1=1p
.param l2=3.9p
.param l3=0.6p
.param l4=1.1p
.param l5=4.5p
.param l6=phi0/(4*ic*ic0)
.param lp2=lp
.param lp3=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param rb3=b0rs/b3
.param lrb1=(rb1/rsheet)*lsheet
.param lrb2=(rb2/rsheet)*lsheet+lp
.param lrb3=(rb3/rsheet)*lsheet+lp
b1 2 3 jjmit  area=b1
b2 5 6 jjmit  area=b2
b3 7 8 jjmit  area=b3
ib1 0 4 pwl(0 0 5p ib1)
ib2 0 9 pwl(0 0 5p ib2)
lb1 4 3 2.825e-012
lb2 9 7 2.942e-012
l1 a 1 1.672e-012
l2 1 0 3.901e-012
l3 1 2 5.953e-013
l4 3 5 1.1e-012
l5 5 7 4.542e-012
l6 7 q 2.012e-012
lp2 6 0 3.924e-013
lp3 8 0 3.841e-013
rb1 2 102 rb1
lrb1 102 3 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
rb3 7 107 rb3
lrb3 107 0 lrb3
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  1
r1 1 0 2
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pwl(0 0 150p 0 153p 600u 156p 0 250p 0 253p 600u 256p 0 280p 0 283p 600u 286p 0 540p 0 543p 600u 546p 0 600p 0 603p 600u 606p 0 640p 0 643p 600u 646p 0 780p 0 783p 600u 786p 0)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
I_b 0 4 pwl(0 0 350p 0 353p 600u 356p 0 450p 0 453p 600u 456p 0 480p 0 483p 600u 486p 0 560p 0 563p 600u 566p 0 580p 0 583p 600u 586p 0 660p 0 663p 600u 666p 0 740p 0 743p 600u 746p 0)
XSOURCEINb SOURCECELL 4 5
XLOADINb LOADINCELL 5 6
I_clk 0 7 pulse(0 600u 20p 2p 2p 1p 100p)
XSOURCEINclk SOURCECELL 7 8
XLOADINclk LOADINCELL 8 9
XLOADOUTq LOADOUTCELL 10 11
XSINKOUTq SINKCELL 11
XDUT THmitll_OR2 3 6 9 10
.tran 0.025p 1000p 0
.print i(L1.XDUT) p(B1.XDUT) i(L4.XDUT) p(B4.XDUT) i(L9.XDUT) p(B10.XDUT) p(B12.XDUT) p(B1.XLOADOUTq)
.end
